US05342959
(f) (R)-(+)-α-[[(2-Bromoethyl) amino]methyl]-2-nitro-1H-imidazole-1-ethanol, monohydrobromide
In another alternate procedure, treatment of (R)-(-)-α-(1-aziridinylmethyl)-2-nitro-1H-imidazole-1-ethanol, synthesized as described in Example 2(e), with aqueous hydrogen bromide in acetone, as described in The Journal of Medicinal Chemistry, 33, 2608 (1990) , gives the product, mp 149°-150.5° C. (decomposition), 99.3% optically pure by chiral HPLC.

reactant | (R)-(-)-α-(1-aziridinylmethyl)-2-nitro-1H-imidazole-1-ethanol | N1(CC1)C[C@H](CN1C(=NC=C1)[N+](=O)[O-])O | C8H12N4O3
reactant | hydrogen bromide | Br | BrH
solvent | acetone | CC(=O)C | C3H6O
product | (R)-(+)-α-[[(2-Bromoethyl) amino]methyl]-2-nitro-1H-imidazole-1-ethanol, monohydrobromide | Br.BrCCNC[C@H](CN1C(=NC=C1)[N+](=O)[O-])O | InChI=1S/C8H13BrN4O3.BrH/c9-1-2-10-5-7(14)6-12-4-3-11-8(12)13(15)16;/h3-4,7,10,14H,1-2,5-6H2;1H/t7-;/m1./s1
